US07807672B2
To a mixture of 1-benzyloxy-2-bromo-4-nitrobenzene (100 mg, 0.33 mmol), Pd(dppf)Cl2.DCM (12 mg, 0.016 mmol), phenylboronic acid (48 mg, 0.39 mmol) and potassium phosphate (207 mg, 0.98 mmol) was added dioxane under an argon atmosphere. The mixture was stirred overnight at 80 C and filtered. The filtrate was concentrated and purified by flash chromatography (5:1 hexanes/ethyl acetate) to give 2-benzyloxy-5-nitro-biphenyl (81 mg).

reactant | 1-benzyloxy-2-bromo-4-nitrobenzene | 0.33 mmol, 100 mg | C(C1=CC=CC=C1)OC1=C(C=C(C=C1)[N+](=O)[O-])Br | C13H10BrNO3
reactant | DCM | 0.016 mmol, 12 mg | C(Cl)Cl | CH2Cl2
reactant | phenylboronic acid | 0.39 mmol, 48 mg | C1(=CC=CC=C1)B(O)O | C6H7BO2
reactant | potassium phosphate | 0.98 mmol, 207 mg | P(=O)([O-])([O-])[O-].[K+].[K+].[K+]
catalyst | Pd(dppf)Cl2 | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
solvent | dioxane | O1CCOCC1 | C4H8O2
product | 2-benzyloxy-5-nitro-biphenyl | 81 mg | C(C1=CC=CC=C1)OC1=C(C=C(C=C1)[N+](=O)[O-])C1=CC=CC=C1 | C19H15NO3
